US05017213
63 g of anhydrous cis-1,2-cyclohexanedicarboxylic acid was dissolved in 200 ml of dried ether and the solution was added dropwise to an ice-cooled suspension of 29 g of lithium aluminum hydride in 1000 ml of dried ether. After completion of the dropwise addition, the solution was heated under reflux for 30 minutes, following return to room temperature, 50 ml of water was added thereto, followed by filtration. The filter cake was washed twice with tetrahydrofuran (200 ml each time). The ethereal filtrate and the tetrahydrofuran washings were combined, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resiude was distilled under reduced pressure and fractions boiling at 122° to 125° C. (0.7 mmHg) were collected to obtain 53 g of pure cis-1,2-cyclohexanedimethanol.

reactant | cis-1,2-cyclohexanedicarboxylic acid | 63 g | [C@@H]1([C@H](CCCC1)C(=O)O)C(=O)O | C8H12O4
reactant | lithium aluminum hydride | 29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 50 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 1000 ml | CCOCC | C4H10O
product | cis-1,2-cyclohexanedimethanol | 53 g | [C@@H]1([C@H](CCCC1)CO)CO | C8H16O2
